US06949552B2
0.15 g of 4-(1-(4-Fluorophenyl)-2-{4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazin-1-yl}-2-oxoethyl)piperidine dihydrochloride was dissolved in 1M aqueous sodium hydroxide solution and extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the filtrate was concentrated under reduced pressure. The residue was dissolved in 5 ml of tetrahydrofuran, and 10 mg lithium aluminum hydride was added, followed by stirring at 50° C. for 15 minutes. The reaction solution was cooled to room temperature and diluted with ether, and 25% aqueous ammonia solution was added dropwise. The precipitate was removed by Celite filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by a silica gel column chromatography (Chromatorex NH, hexane:ethyl acetate=4:1) to give 0.13 g of 1-[2-(4-fluorophenyl)-2-piperidin-4-yl-ethyl]-4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazine as an oil.

reactant | 4-(1-(4-Fluorophenyl)-2-{4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazin-1-yl}-2-oxoethyl)piperidine dihydrochloride | 0.15 g | Cl.Cl.FC1=CC=C(C=C1)C(C(=O)N1CCN(CC1)CCCCC1=C(C=CC2=CC=CC=C12)OC)C1CCNCC1
solvent | sodium hydroxide | 1M | [OH-].[Na+]
product | 1-[2-(4-fluorophenyl)-2-piperidin-4-yl-ethyl]-4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazine | 0.13 g | FC1=CC=C(C=C1)C(CN1CCN(CC1)CCCCC1=C(C=CC2=CC=CC=C12)OC)C1CCNCC1 | C32H42FN3O
